Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Fever and flank pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ year old female with vesicoureteral reflux 
and several prior episodes of pyelonephritis who presented to 
the ED with two days of left-sided flank pain, fevers, and 
malaise similar to her past episodes of pyelonephritis.  She 
noted mild back pain on ___ along with a sore throat. She 
then woke up ___ morning with worsening left-sided back pain, 
shaking chills, fever to 102, nausea, and emesis x 1.  She was 
unable to sleep due to the fevers and pain.  She presented to 
the ED, where she was placed in ED Obs for fluids and 
Ceftriaxone.  She was initially discharged home with a course of 
Bactrim, but returned later that evening with persistent fevers 
to 102.  She denied any dysuria, urinary frequency, abdominal 
pain, cough, diarrhea, sick contacts, or vaginal discharge. 
.
In the ED, initial VS were pain 10, T 102.2, HR 130, BP 136/75, 
RR 18, and SpO2 99% on RA.  She triggered for tachycardia, but 
was overall stable appearing. Labs were notable for WBC 21 
(84%N), normal lactate, UA with 20 WBCs, and Chem7 WNL. Exam was 
notable for a normal Gyn exam without cervical motion 
tenderness. Renal U/S was normal. She received NS 6L, CTX, 
Percocet, Zofran, Acetaminophen, Morphine, and Ibuprofen. Blood 
and urine cultures were sent (urine from ___ prior to 
antibiotics was not processed).  Though she initially 
defervesced, she spiked to 102 again after her second dose of 
CTX, so was admitted to medicine.
.
Currently, she has ___ back pain but appears well.
.
REVIEW OF SYSTEMS:  
(+) per HPI  headache, constipation, nausea
(-) vision changes, sore throat (now resolved), URI symptoms, 
hematuria

 
Past Medical History:
# Vesicoureteral Reflux -- diagnosed as young child
# Pyelonephritis -- several prior episodes, last few worse
-- most recent episode last ___
# Recurrent UTIs
# Migraines -- infrequent auras
# Appendectomy

 
Social History:
___
Family History:
No kidney disease in family.
# Mother: hypertension

 
Physical ___:
PHYSICAL EXAM ON ADMISSION:
VS: T 98.4, BP 116/74, HR 99, RR 18, and SpO2 98% on RA
GENERAL: well appearing
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, moist MM, o/p 
clear
NECK: supple, no LAD
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use
HEART: RRR, no MRG, nl S1-S2
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses
EXTREMITIES: no edema, 2+ pulses radial and dp
BACK: tender over left flank with associated muscle spasm, no 
focal collection

PHYSICAL EXAM ON DISCHARGE:
VS: T 99.9, BP 112/66, HR 83, RR 18, SpO2 97% on RA, Weight 80.8 
kg
Gen: Well appearing young female in NAD. Alert and oriented x3. 
Resting in bed.
HEENT: PERRL, EOMI, anicteric sclera. MMM, OP benign. Cold sore 
on right lower lip, no other oral lesions noted.
Neck: Supple. JVP not elevated.  No cervical lymphadenopathy.
CV: RRR. Normal S1, S2.  No M/R/G appreciated.
Chest: Respiration unlabored, no accessory muscle use.  Lungs 
CTAB.  No wheezes, rhonchi, or rales.
Back: Mild left CVA tenderness, much less than yesterday.
Abd: BS present. Soft, NT, ND. No HSM detected.
Ext: WWP, no cyanosis or clubbing. No ___ edema. Digital cap 
refill <2 sec.  Distal pulses radial 2+, DP 2+, ___ 2+.
Skin: No rashes, ecchymoses, or other lesions noted.
Neuro: Moving all four limbs.

 
Pertinent Results:
LABS ON ADMISSION:
___ 04:30PM BLOOD WBC-16.0*# RBC-3.83* Hgb-12.7 Hct-36.8 
MCV-96 MCH-33.0* MCHC-34.5 RDW-13.3 Plt ___
___ 04:30PM BLOOD Neuts-91.2* Lymphs-3.5* Monos-5.0 Eos-0.1 
Baso-0.1
___ 04:30PM BLOOD Glucose-92 UreaN-11 Creat-0.7 Na-133 
K-3.7 Cl-100 HCO3-24 AnGap-13
___ 04:30PM BLOOD Calcium-8.8 Phos-2.1* Mg-1.7
___ 04:38PM BLOOD Lactate-1.0

LABS ON DISCHARGE:
___ 06:15AM BLOOD WBC-11.8* RBC-3.28* Hgb-10.7* Hct-31.9* 
MCV-97 MCH-32.7* MCHC-33.6 RDW-12.9 Plt ___
___ 06:15AM BLOOD Glucose-86 UreaN-9 Creat-0.6 Na-138 K-3.7 
Cl-104 HCO3-24 AnGap-14
___ 06:15AM BLOOD Calcium-8.2* Phos-3.4 Mg-1.8

URINALYSIS:
___ 04:30PM URINE Color-Straw Appear-Clear Sp ___
___ 04:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-SM 
___ 04:30PM URINE RBC-1 WBC-20* Bacteri-NONE Yeast-NONE 
Epi-1
___ 04:30PM URINE Mucous-RARE
___ 04:30PM URINE UCG-NEGATIVE

MICROBIOLOGY:
# URINE CULTURE (Final ___:
      ESCHERICHIA COLI.    10,000-100,000 ORGANISMS/ML.
     SENSITIVITIES: MIC expressed in MCG/ML
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING / STUDIES:
# RENAL US ___ at 12:44 ___:
FINDINGS:  The right kidney measures 11.7 cm and the left kidney 
measures 12.2 cm.  There is fullness of the renal pelves 
bilaterally, but there is no hydronephrosis, stone, or mass.  
Renal echogenicity and corticomedullary architecture is within 
normal limits.  The bladder is moderately well seen and normal 
in appearance.
IMPRESSION:  Normal renal ultrasound.

 
Brief Hospital Course:
The patient is a ___ year old female with vesicoureteral reflux 
and several prior episodes of pyelonephritis who presented with 
flank pain and high fevers similar to her previous episodes of 
pyelonephritis.

# Pyelonephritis: She presented with flank pain, fevers, and 
positive urinalysis concerning for pyelonephritis.  On 
admission, she met ___ SIRS criteria and had a likely urinary 
source of infection, meeting the definition of sepsis.  Her 
initial lactate was normal, and she was hemodynamically stable 
with improved tachycardia after IV fluids and consistently 
normal blood pressures.  She presented with a dramatic WBC# of 
23K, with left shift, but no bandemia, down to 11K on day of 
discharge. Her Renal ultrasound was reassuringly normal without 
signs of perinephric abscess.  She did remain febrile for ~36 
hours, which raised concern for treatment failure with 
Ceftriaxone.  There was concern she may have a resistant 
organism, so she was instead treated with Cefepime after 
admission to the floor.  She received Acetaminophen, Oxycodone, 
and Ondansetron for symptom control.  Urine cultures eventually 
grew pan sensitive E coli, and she was discharged on a course of 
Ciprofloxacin.  Given her recurrent severe urinary tract 
infections, followup with Urology was arranged to discuss her 
options to prevent future infections.  Her blood cultures were 
all negative.  
.
# Constipation: She had not had a bowel movement in several days 
and was started on a fairly aggressive bowel regimen with 
Colace, Senna, Miralax, and Bisacodyl.
.
# Cold Sore: On the day of discharge, she noted a cold sore on 
her lower lip.  She reported having them fairly frequently and 
asked for something to treat it, so was provided topical 
Acyclovir ointment.
.
# Transitional Care:
-- Discharged on a course of Ciprofloxacin 500 mg PO Q12H for 7 
more days
-- Arranged new PCP appointment at ___ since she does not have a 
PCP in the area
-- Arranged initial visit with Urology to discuss possible VUR 
treatment options
-- If no surgical options to treat VUR, consider prophylactic 
antibiotics

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Senna 1 TAB PO BID 
3. Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyelonephritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure caring for you during your stay at ___ 
___.  You were admitted for a kidney 
infection (pyelonephritis) with high fevers and flank pain.  You 
were given IV fluids and treated with IV antibiotics during your 
stay.  Urine cultures grew a type of bacteria called E coli, 
which was sensitive to all of the antibiotics tested.  Your 
fevers improved, and you were switched to oral antibiotics to 
take after discharge.  You will need to complete an additional 
one week course of these antibiotics after discharge.

Because you do not have a primary care doctor in the area, you 
were scheduled for an initial visit with a new primary care 
doctor in the Healthcare ___ clinic at ___.  Because of 
your frequent urinary tract infections and pyelonephritis, you 
were also scheduled to see a urologist after discharge.

 
Followup Instructions:
___